US04686227
Methyliodide (1.7 g) was added dropwise to a solution of 8-chloro-3-dimethylaminomethyl-2-methylimidazo[2,1-a]isoquinoline (2.8 g) in ethanol (34 ml) at room temperature and the mixture was stirred for 14 hours. The resulting precipitate was collected by filtration, washed with ethanol and dried in a desiccator to give 8-chloro-2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline iodide (3.58 g).

reactant | Methyliodide | 1.7 g | CI | CH3I
reactant | 8-chloro-3-dimethylaminomethyl-2-methylimidazo[2,1-a]isoquinoline | 2.8 g | ClC=1C=C2C=CN3C(C2=CC1)=NC(=C3CN(C)C)C | C15H16ClN3
solvent | ethanol | 34 ml | C(C)O | C2H6O
product | 8-chloro-2-methyl-3-trimethylammoniomethylimidazo[2,1-a]isoquinoline iodide | 3.58 g | [I-].ClC=1C=C2C=CN3C(C2=CC1)=NC(=C3C[N+](C)(C)C)C | InChI=1S/C16H19ClN3.HI/c1-11-15(10-20(2,3)4)19-8-7-12-9-13(17)5-6-14(12)16(19)18-11;/h5-9H,10H2,1-4H3;1H/q+1;/p-1
